US04921961
Preparation of 5,7-Dihydro-alpha-isopropyl-alphamethyl-5,7-dioxo-6H-pyrrolo[3,4-b]pyridine-6-acetamide
To 330 mL concentrated sulfuric acid is added portion wise with thorough stirring 298 g of finely divided 5,7-dihydro-alpha-isopropyl-alpha-methyl-5,7-dioxo-6H-pyrrolo[3,4-b]pyridine-6-acetonitrile so that the temperature did not go about 72° C. After the addition the temperature is adjusted to 60°-65° C. and maintained there for 11/2 hours. The mixture is cooled, quenched with ice and finally diluted to approximately 4 liters. After adding 454 g sodium acetate and cooling at 0° C. for 2 hours the mixture is filtered, the solids collected and washed twice with 500 mL water containing sodium acetate followed by water to remove all the sulfuric acid. The solid is dried to give 289 g of product, mp 176°-178° C. Material made in a similar way and analytically pure had mp 188°-190° C.

reactant | 5,7-dihydro-alpha-isopropyl-alpha-methyl-5,7-dioxo-6H-pyrrolo[3,4-b]pyridine-6-acetonitrile | C(C)(C)C(C#N)(N1C(C2=NC=CC=C2C1=O)=O)C | C13H13N3O2
reactant | sulfuric acid | 330 mL | S(O)(O)(=O)=O | H2O4S
product | 5,7-Dihydro-alpha-isopropyl-alphamethyl-5,7-dioxo-6H-pyrrolo[3,4-b]pyridine-6-acetamide | 289 g | C(C)(C)C(C(=O)N)(N1C(C2=NC=CC=C2C1=O)=O)C | C13H15N3O3
